US05641431
Using the same method as Example 14, 23.2 g of 4-ethyl-4-p-tolyl-4-silacyclohexanone was reacted with 4-(4-fluorophenyl)phenyl magnesium bromide; the alcohol generated was treated with a dehydration reaction followed by catalytic reduction to obtain 4-(4-(4-fluorophenyl)phenyl)-1-ethyl-1-p-tolyl-1-silacyclohexane; this was then reacted with iodine monochloride; and then the product was reduced using lithium aluminum hydride to obtain 2.12 g (yield 71%) of the target product.

reactant | 4-ethyl-4-p-tolyl-4-silacyclohexanone | 23.2 g | C(C)[Si]1(CCC(CC1)=O)C1=CC=C(C=C1)C | C14H20OSi
reactant | 4-(4-fluorophenyl)phenyl magnesium bromide | FC1=CC=C(C=C1)C1=CC=C(C=C1)[Mg]Br
product | 4-(4-(4-fluorophenyl)phenyl)-1-ethyl-1-p-tolyl-1-silacyclohexane | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1CC[Si](CC1)(C1=CC=C(C=C1)C)CC | C26H29FSi
